US07973072B2
7. Synthesis of 3,3-bis(hydroxymethyl)-1-oxo-1λ4-thiochroman-4-one
A solution of 3,3-bis(hydroxymethyl)thiochroman-4-one (200 mg, 0.9 mmol) in MeOH (5 ml) was admixed with a solution of sodium metaperiodate (206 mg, 0.96 mmol) in water (2 ml) and stirred at RT for 72 h. The reaction mixture was diluted with water (10 ml) and extracted with EtOAc (3×30 ml), the combined organic phases were dried over sodium sulfate and the solvent was removed under reduced pressure. After column chromatography purification of the residue (silica gel, EtOAc), the desired product was obtained as a white solid (113 mg, 52% of theory, m.p. 108-111° C.).

reactant | 3,3-bis(hydroxymethyl)thiochroman-4-one | 0.9 mmol, 200 mg | OCC1(CSC2=CC=CC=C2C1=O)CO | C11H12O3S
reactant | sodium metaperiodate | 0.96 mmol, 206 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3,3-bis(hydroxymethyl)-1-oxo-1λ4-thiochroman-4-one | OCC1(CS(C2=CC=CC=C2C1=O)=O)CO | C11H12O4S
